US08383821B2
Methyl 3-amino-5-(trifluoromethyl)benzoate.
Methyl 3-nitro-5-(trifluoromethyl)benzoate (9.0 g, 36.1 mmol) in methanol (30 mL) was flushed with nitrogen, and treated with palladium (10% on charcoal, 0.90 g). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Flash chromatography on silica gel (30% ethyl acetate/hexanes) afforded 6.8 g (86%). 1H-NMR (CDCl3, 500 MHz) δ 7.64 (s, H), 7.49 (s, 1H), 7.05 (s, 1H), 3.91 (s, 3H). Mass spec.: 220.05 (MH)+.

reactant | Methyl 3-nitro-5-(trifluoromethyl)benzoate | 36.1 mmol, 9.0 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6F3NO4
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium | 0.90 g | [Pd] | Pd
product | Methyl 3-amino-5-(trifluoromethyl)benzoate | NC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H8F3NO2
